US07238716B2
To a mixture of methyl 6-(5-methyl-2-phenyl-4-oxazolyl)methoxy-2-pyridinecarboxylate (6.49 g) and tetrahydrofuran (60 mL) was added lithium aluminum hydride (0.759 g) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the mixture was added sodium sulfate 10 hydrate (6.44 g) and further stirred at room temperature for 30 min. The insoluble materials were removed by filtration, and the filtrate was concentrated to give crystals. The obtained crystals were added to thionyl chloride (20 mL) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, saturated aqueous sodium hydrogencarbonate was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals of 2-chloromethyl-6-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless plate crystals (2.74 g, 44%). melting point: 85-86° C.

reactant | methyl 6-(5-methyl-2-phenyl-4-oxazolyl)methoxy-2-pyridinecarboxylate | 6.49 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=CC(=N1)C(=O)OC | C18H16N2O4
reactant | lithium aluminum hydride | 0.759 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate 10 hydrate | 6.44 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-chloromethyl-6-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | ClCC1=NC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
